US07566735B2
N-ethyl-4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzamide
A suspension of 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid (310 mg, 1.0 mmol) in dichloromethane (5 ml) was treated with 1,1′-carbonyldiimidazole (162 mg, 1.0 mmol) at room temperature under argon. This mix was stirred for 30 minutes and then treated with a 2M solution of ethylamine in tetrahydrofuran (0.5 ml). The whole mix was stirred at room temperature for 2 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate. The organic layer was separated, dried over sodium sulphate and reduced to minimum volume by rotary evaporation to give a beige solid (250 mg) which was purified by column chromatography on a 5 g pre-packed silica column, eluting from 0-50% ethyl acetate in petroleum ether to give the title compound as a colourless solid (128 mg, 38%).

reactant | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid | 1.0 mmol, 310 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)O)C=C1)(F)F | C15H13F3N2O2
reactant | 1,1′-carbonyldiimidazole | 1.0 mmol, 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethylamine | C(C)N | C2H7N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | N-ethyl-4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzamide | 250 mg | C(C)NC(C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O | C17H18F3N3O
